US08389524B2
(1R)-1-({4-[(5,6,7,8-Tetrahydro-3-isoquinolinylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride (87 mg, 0.233 mmol) (for a preparation see Example 5(j)) in chloroform (5 ml) and methanol (0.2 ml) at rt under argon was treated with triethylamine (970.699 mmol) and stirred at rt for 0.25 h. The solution was then treated with 5,6,7,8-tetrahydro-3-isoquinolinecarbaldehyde (37.6 mg, 0.233 mmol) and stirred for a further 0.5 h. The solution was then treated with NaBH(OAc)3 (148 mg, 0.699 mmol) and stirred at rt for 0.5 h. The reaction was then treated with saturated aqueous NaHCO3 (100 ml) and extracted with 20% methanol/DCM (3×200 ml). The combined organic extracts were dried (MgSO4), filtered, evaporated and chromatographed (0-20% methanol/DCM) to give the free base of the title compound as a light brown solid (66 mg, 64%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione dihydrochloride | 0.233 mmol, 87 mg | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 970.699 mmol | C(C)N(CC)CC | C6H15N
reactant | 5,6,7,8-tetrahydro-3-isoquinolinecarbaldehyde | 0.233 mmol, 37.6 mg | C1=NC(=CC=2CCCCC12)C=O | C10H11NO
reactant | NaBH(OAc)3 | 0.699 mmol, 148 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 0.2 ml | CO | CH4O
product | (1R)-1-({4-[(5,6,7,8-Tetrahydro-3-isoquinolinylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridine-4,9-dione hydrochloride | 66 mg, 64% | Cl.C1=NC(=CC=2CCCCC12)CNC1CCN(CC1)C[C@@H]1CN2C(C=CC=3C=CC(N1C23)=O)=O | InChI=1S/C26H31N5O2.ClH/c32-24-7-5-18-6-8-25(33)31-23(17-30(24)26(18)31)16-29-11-9-21(10-12-29)28-15-22-13-19-3-1-2-4-20(19)14-27-22;/h5-8,13-14,21,23,28H,1-4,9-12,15-17H2;1H/t23-;/m1./s1
